US07151105B2
Step 1: (4-Bromo-2-fluoro-5-methoxy-phenyl)methanol
Bromine (15 mL, 0.3 mol) was added slowly to a solution of 2-fluoro-5-methoxy-benzaldehyde (23.1 g, 0.15 mol) in chloroform (500 mL) and the mixture was stirred at room temperature for 5 days. The mixture was poured into water (200 ml) and extracted with chloroform (2×200 mL). The organics were washed with water, brine, dried over MgSO4, filtered and concentrated. The residue was purified by flash column chromatography (2–16% EtOAc in hexanes to give 4-bromo-2-fluoro-methoxy-benzaldehyde (20.7 g, 60%). To a solution of 4-bromo-2-fluoro-5-methoxy-benzaldeyde (4.0 g, 17.3 mmol) in MeOH at 0° C. was added NaBH4 (0.65 g, 17.3 mmol). After the reaction mixture was stirred at 0° C. for 2 hours, it was allowed to warm to room temperature. The organic layer was taked up in ethyl ether washed with water and dried over MgSO4, filtered and concentrated. The residue was purified by flash chromatography (25–45% EtOAc in hexanes) to give the product. (3.9 g, 99%). 1H NMR (300 MHz, CDCl3): δ 3.90 (s, 3 H), 4.74 (d, J=6.02 Hz, 2 H), 6.82 (q, J=6.1 Hz, 1 H), 7.29 (d, J=10.58 Hz, 1 H).

reactant | 4-bromo-2-fluoro-5-methoxy-benzaldeyde | 17.3 mmol, 4.0 g | BrC1=CC(=C(C=O)C=C1OC)F | C8H6BrFO2
reactant | NaBH4 | 17.3 mmol, 0.65 g | [BH4-].[Na+]
solvent | MeOH | CO | CH4O
solvent | ethyl ether | C(C)OCC | C4H10O
product | (4-Bromo-2-fluoro-5-methoxy-phenyl)methanol | BrC1=CC(=C(C=C1OC)CO)F | C8H8BrFO2
